US04720506
3.87 g of ethyl 2-(4-acetylaminophenyl)-2-methylpropionate was dissolved in a mixed solution of 16.6 ml of 2N-caustic soda solution and 30 ml of ethyl alcohol and the solution was stirred at 50° C. for 8 hours. After distilling off ethyl alcohol under reduced pressure, the aqueous layer was extracted with ether and unreacted materials were removed. After the aqueous layer was acidified with conc. hydrochloric acid, the formed crystals were collected by filtration, washed with water, and recrystallized from acetone-water to give 2.15 g of 2-(4-acetylaminophenyl)-2-methylpropionic acid (Yield: 62%). M.P. 169.7°-170.8° C.

reactant | ethyl 2-(4-acetylaminophenyl)-2-methylpropionate | 3.87 g | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)OCC)(C)C | C14H19NO3
solvent | caustic soda | [OH-].[Na+]
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | 2-(4-acetylaminophenyl)-2-methylpropionic acid | 2.15 g, Yield: 62% | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)O)(C)C | C12H15NO3
